US07026326B2
6-(2-Chloro-pyridin-4-yl)-2-(2-methoxymethyl-pyrrolidin-1-yl)-3-methyl-5-m-tolyl-3H-pyrimidin-4-one
To a 100 mL RBF, was added (S)-2-methoxymethyl-pyrrolidine (0.172 g, 1.5 mmol), and 50 mL dichloromethane at 0° C. under nitrogen. 0.35 mL diisopropylethylamine (2.0 mmol) was added drop wise, and stirred for 10 min. 2-Chloro-6-(2-chloropyridin-4-yl)-3-methyl-5-m-tolyl-3H-pyrimidin-4-one (0.345 g, 1.0 mmol) was added in one portion, and stirred at 0° C. to rt for 12 h. The mixture was diluted with 100 mL dichloromethane, washed with sat. NaHCO3 and brine. After purified by flash chromatography, the title compound was obtained in 0.40 g as pale yellow solid. MS (ES+): 425 (M+H)+.

reactant | (S)-2-methoxymethyl-pyrrolidine | 1.5 mmol, 0.172 g | COC[C@H]1NCCC1 | C6H13NO
reactant | diisopropylethylamine | 2.0 mmol, 0.35 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-Chloro-6-(2-chloropyridin-4-yl)-3-methyl-5-m-tolyl-3H-pyrimidin-4-one | 1.0 mmol, 0.345 g | ClC1=NC(=C(C(N1C)=O)C=1C=C(C=CC1)C)C1=CC(=NC=C1)Cl | C17H13Cl2N3O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 6-(2-Chloro-pyridin-4-yl)-2-(2-methoxymethyl-pyrrolidin-1-yl)-3-methyl-5-m-tolyl-3H-pyrimidin-4-one | ClC1=NC=CC(=C1)C1=C(C(N(C(=N1)N1C(CCC1)COC)C)=O)C=1C=C(C=CC1)C | C23H25ClN4O2
